US07812040B2
2-Isopropyl-5-Methyl-4-(pyrrolidin-1-ylmethyl)phenol.
4-Hydroxy-5-isopropyl-2-methyl-benzaldehyde (1.0 g, 5.6 mmol) was added in portions for 30 min to a mixture of pyrrolidine (0.58 mL, 7 mmol) and NaB(OAc)3H (1.49 g, 7 mmol) in CH2Cl2 (10 mL) under vigorous stirring and cooling with an ice bath in an atmosphere of argon. The mixture was stirred for 12 h and cooled with an ice bath. Water (25 mL) and 5N NaHSO4 (to pH 1) were added. The organic layer was separated and discarded. The aqueous one was alkalized with saturated K2CO3 to pH 6 and extracted with chloroform (2×25 mL). The combined extracts were dried with Na2SO4, and evaporated to give the title compound (1.0 g, 80%) was obtained as dark-yellow crystals. LCMS-data: (M+H)+ 234.1 and 235.1 (calculated for C15H23NO 233.4). 1H NMR data (DMSO-d6): 8.88 (br. s, 1H ArOH), 6.90 (s, 1H, Ar—H), 6.54 (s, 1H, Ar—H); 3.40 (s, 2H, ArCH2), 3.13 (m, 1H, CH(CH3)2), 2.33-2.45 (m, 4H, pyrrolidine (CH2)2N), 2.17 (s, 3H, CH3), 1.60-1.70 (m, 4H, CH2CH2CH2CH2), 1.12 (d, 6H, J=6.9 Hz, CH(CH3)2).

reactant | 4-Hydroxy-5-isopropyl-2-methyl-benzaldehyde | 5.6 mmol, 1.0 g | OC1=CC(=C(C=O)C=C1C(C)C)C | C11H14O2
reactant | pyrrolidine | 7 mmol, 0.58 mL | N1CCCC1 | C4H9N
reactant | NaB(OAc)3H | 7 mmol, 1.49 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHSO4 | 5N, pH 1 | OS(=O)(=O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 25 mL | O | H2O
product | 2-Isopropyl-5-Methyl-4-(pyrrolidin-1-ylmethyl)phenol | 1.0 g, 80% | C(C)(C)C1=C(C=C(C(=C1)CN1CCCC1)C)O | C15H23NO
